US08293768B2
Synthesis of ethyl 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylate
A mixture of ethyl 3-methyl-5-(2-oxo-3-(2-(tosyloxy)ethyl)imidazolidin-1-yl)thiophene-2-carboxylate (0.16 g, 0.35 mmol), phenol (0.03 g, 0.36 mmol) and potassium carbonate (0.05 g, 0.35 mmol) in N,N-dimethylformamide (3 mL) was stirred at 70° C. for 16 h, cooled to ambient temperature, and partitioned between ethyl acetate (75 mL) and water (35 mL). The organic layer was washed with brine (35 mL), dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified by column chromatography eluted with 0-40% ethyl acetate in hexanes to afford the title compound as a colorless solid 72% yield (0.10 g): 1H NMR (300 MHz, CDCl3) δ 7.32-7.26 (m, 2H), 7.00-6.94 (m, 1H), 6.89 (d, J=7.6 Hz, 2H), 6.14 (s, 1H), 4.27 (q, J=7.1 Hz, 2H), 4.17 (t, J=4.9 Hz, 2H), 3.81 (br s, 4H), 3.72 (t, J=4.9 Hz, 2H), 2.49 (s, 3H), 1.33 (t, J=7.1 Hz, 3H); MS (ES+) m/z 375.2 (M+1).

reactant | ethyl 3-methyl-5-(2-oxo-3-(2-(tosyloxy)ethyl)imidazolidin-1-yl)thiophene-2-carboxylate | 0.35 mmol, 0.16 g | CC1=C(SC(=C1)N1C(N(CC1)CCOS(=O)(=O)C1=CC=C(C)C=C1)=O)C(=O)OCC | C20H24N2O6S2
reactant | phenol | 0.36 mmol, 0.03 g | C1(=CC=CC=C1)O | C6H6O
reactant | potassium carbonate | 0.35 mmol, 0.05 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 3 mL | CN(C=O)C | C3H7NO
product | ethyl 3-methyl-5-(2-oxo-3-(2-phenoxyethyl)imidazolidin-1-yl)thiophene-2-carboxylate | 0.10 g, 72% yield | CC1=C(SC(=C1)N1C(N(CC1)CCOC1=CC=CC=C1)=O)C(=O)OCC | C19H22N2O4S
